US09405047B2
Preparation of 2-(methylacryloyloxy)ethyl trimethylammonium tetrafluroborate (TMEAMABF4)
1,162 grams of a 20% solution of sodium tetrafluoroborate in water was heated to about 50° C. With agitation, 379 grams of an 80% aqueous solution of 2-(methylacryloyloxy)ethyl trimethylammonium methylsulfate (Sigma-Aldrich) was slowly mixed with the tetrafluoroborate solution. The solution was allowed to cool without agitation to room temperature and was then stored in a refrigerator overnight. On the following day, a white solid was filtered from the solution and then dried under vacuum for about 24 hours. 217 grams of dry 2-(methylacryloyloxy)ethyl trimethylammonium tetrafluroborate was collected.

reactant | sodium tetrafluoroborate | F[B-](F)(F)F.[Na+]
reactant | 2-(methylacryloyloxy)ethyl trimethylammonium methylsulfate | COS(=O)(=O)[O-].CC=CC(=O)OCC[N+](C)(C)C
reactant | tetrafluoroborate | F[B-](F)(F)F
solvent | water | O | H2O
product | 2-(methylacryloyloxy)ethyl trimethylammonium tetrafluroborate | F[B-](F)(F)F.CC=CC(=O)OCC[N+](C)(C)C | InChI=1S/C9H18NO2.BF4/c1-5-6-9(11)12-8-7-10(2,3)4;2-1(3,4)5/h5-6H,7-8H2,1-4H3;/q+1;-1
